US08895545B2
(R)-tert-butyl 7-bromo-3-methyl-2,3-dihydro-1H-pyrido[2,3-e][1,4]diazepine-4(5H)-carboxylate
To a solution of (R)-7-bromo-3-methyl-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepine (161 mg, 0.66 mmol) in MeCN (10 mL) and triethylamine (140 uL, 0.99 mmol) was added di-tert-butyl dicarbonate (144 mg. 0.66 mmol) and the reaction stirred at room temperature for 1 h. The reaction mixture was concentrated and re-solvated in dichloromethane (20 mL), washed with water (15 mL), dried over sodium sulfate and concentrated to give the title compound as a white solid (218 mg, 96%); 1H NMR (400 MHz, CDCl3) δ7.96 (s, 1H), 7.46 (s, 1H), 4.36 (d, 2H, J=14.3 Hz), 4.21 (d, 1H, J=14.3 Hz), 6.33-3.61 (m, 2H), 3.26-3.13 (m, 1H), 1.35-1.34 (s, 9H), 1.37-1.35 (d, 3H, J=6.4 Hz).

reactant | (R)-7-bromo-3-methyl-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepine | 0.66 mmol, 161 mg | BrC1=CC2=C(NC[C@H](NC2)C)N=C1 | C9H12BrN3
reactant | triethylamine | 0.99 mmol, 140 uL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 0.66 mmol, 144 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | MeCN | 10 mL | CC#N | C2H3N
product | (R)-tert-butyl 7-bromo-3-methyl-2,3-dihydro-1H-pyrido[2,3-e][1,4]diazepine-4(5H)-carboxylate | 218 mg, 96% | BrC1=CC2=C(NC[C@H](N(C2)C(=O)OC(C)(C)C)C)N=C1 | C14H20BrN3O2
